US08030498B2
Preparation of 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(difluoromethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (Compound No. 38 as Described Hereinafter)
To a solution of 5-hydroxy-1-methylpyrazol-4-yl 3-(difluoromethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (89 mg) in dry tetrahydrofuran (5 mL) were added triethylamine (50 mg) and 96% S-ethyl chlorothiolformate (40 mg) at room temperature. After the reaction solution was stirred for 1 hour, 150 mL of ethyl acetate was added. The mixture was washed twice with a saturated brine, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to obtain the desired product as an oil.

reactant | 5-hydroxy-1-methylpyrazol-4-yl 3-(difluoromethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | 89 mg | FC(OC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)C)C)F | C14H14F2N2O5S
reactant | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
reactant | S-ethyl chlorothiolformate | 40 mg | CCSC(=O)Cl | C3H5ClOS
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(difluoromethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | FC(OC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1OC(=O)SCC)C)C)F | C17H18F2N2O6S2
